US04778811
A mixture of 17.62 g (0.1 mole) of 3-amino-4-mercapto-quinoline and 70 ml of acetic anhydride is heated slowly to the boiling point and thereafter heated to boiling for one hour and a half. The reaction mixture is cooled and 600 ml of 1% hydrochloric acid are added dropwise under vigorous stirring. The homogenous solution is made alkaline with a sodium hydroxide solution and the precipitated base is extracted three times with 100 ml of benzene each. The united benzene extracts are clarified, dried and evaporated in vacuo. Thus 2-methyl-thiazolo[4,5-c]quinoline is obtained, m.p.: 99°-100° C. (after recrystallization from a mixture of methanol and water).

reactant | 3-amino-4-mercapto-quinoline | 0.1 mole, 17.62 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | 2-methyl-thiazolo[4,5-c]quinoline | CC=1SC2=C(C=NC=3C=CC=CC23)N1 | C11H8N2S
